US08802711B2
(S)-3-(2-fluorophenyl)cyclopentanone
According to the method described in J. Org. Chem., 2009, 74, 929, bis(norbornadiene)rhodium tetrafluoroborate (0.22 g, 0.59 mmol) and (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.39 g, 0.62 mmol) were added to a mixture of 2-fluorophenylboronic acid (5.37 g, 38.4 mmol) in nitrogen sparged dioxane (30 mL) under nitrogen atmosphere. After 2 hours of agitation at ambient temperature, water was added (4.6 mL) followed by 2-cyclopenten-1-one (3.06 mL, 36.5 mmol) and triethylamine (5.09 g, 36.5 mmol). The agitation was continued for 24 h at 30° C. then the mixture was diluted with heptane (30 mL), MTBE (10 mL), and water (30 mL). The organic layer was separated and washed with water (50 mL). The aqueous layers were combined and extracted with MTBE/heptane (1:2, 50 mL). Combined organic extracts were dried (Na2SO4) and concentrated. Purification by chromatography (SiO2, hexane/20% ethyl acetate) afforded the title compound (3.94 g, 22.1 mmol, 61%). 1H NMR (300 MHZ, DMSO-d6) δ 7.46-7.27 (M, 1H), 7.25-7.05 (M, 3H), 3.56-3.26 (M, 1H), 2.22-1.41 (M, 6H). MS (ESI) m/z 177 (M−H)+.

reactant | 2-fluorophenylboronic acid | 38.4 mmol, 5.37 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | 2-cyclopenten-1-one | 36.5 mmol, 3.06 mL | C1(C=CCC1)=O | C5H6O
reactant | triethylamine | 36.5 mmol, 5.09 g | C(C)N(CC)CC | C6H15N
solvent | heptane | 30 mL | CCCCCCC | C7H16
solvent | MTBE | 10 mL | CC(C)(C)OC | C5H12O
solvent | water | 30 mL | O | H2O
catalyst | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.62 mmol, 0.39 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | (S)-3-(2-fluorophenyl)cyclopentanone | 22.1 mmol, 3.94 g, 61% | FC1=C(C=CC=C1)[C@@H]1CC(CC1)=O | C11H11FO
